US05180737
4-(3-Chloropropanoyl)bromobenzene (ex. Lancaster) (24.7 g) added to aluminium chloride (100 g) and sodium chloride (25 g) at 180°. After 30 minutes at 180°-220° the mixture was poured onto ice and treated with acetic acid (30 ml). The resultant product was collected and taken up in ether, the organic solution was dried and concentrated and the residue recrystallised from methanol to give 5-bromoindan-1-one (9 g).

reactant | 4-(3-Chloropropanoyl)bromobenzene | 24.7 g | ClCCC(=O)C1=CC=C(C=C1)Br | C9H8BrClO
reactant | aluminium chloride | 100 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium chloride | 25 g | [Cl-].[Na+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 5-bromoindan-1-one | 9 g | BrC=1C=C2CCC(C2=CC1)=O | C9H7BrO
